Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I went to my counselor at school today and she
thought I needed more help"

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is an ___ yo female freshman at ___
with no known psychiatric history who presents to the ___ ED
today having been brought in by her ___ therapist, after
disclosing to her therapist that she was feeling suicidal with
plan to run into traffic.

On ___ admission interview patient reports that she was
diagnosed with depression and PTSD when she was a sophomore in
high school but has been dealing with symptoms throughout her
entire life.  She says that over the past three weeks she has
become increasing depressed and stressed in the setting of
mounting social stressors which include breaking up with her
girlfriend, family expectations to care for her younger siblings
and constantly being exposed to triggers of her past sexual 
abuse
(ex. hearing footsteps outside of her room).  She has had
difficulty sleeping (both falling asleep and staying asleep), 
low
appetite and difficulty concentrating in school.  She feels her
memory and energy level are at baseline however and she still
enjoys things such as running daily and writing in her journal. 
She has still been able to attend classes up until today.

The patient endorses SI "since the third grade" but states it
comes and goes and has been worse over the past year.  She has
made a plan to jump in front of traffic but has not set a
specific time to do so.  She denies former suicide attempts and
states that she has not tried jumping in front of traffic 
because
she is usually not alone when she is walking.  She fears that 
she
may do it soon.  She reports passive SI here on the unit and
states that she can tell staff if this changes.  Though she felt
like she did not have much choice in being admitted to the unit,
she feels ok being here "if it helps." 

Patient denies HI or AVH.  She denies symptoms of mania.  
Patient
was oriented to the unit and informed to contact staff with
questions or issues.

Did not delve into trauma history details overnight in ___
admission interview.  Per Dr. ___ ED assessment:
"Pt notes very significant symptoms of PTSD from sexual abuse by
her maternal uncle that began when she was in third grade. The
abuse lasted for ___ years until the uncle moved back to
___. Pt explains that she did not tell anyone about the
abuse until she was a sophomore in high school and told her
guidance counselor. The guidance counselor arranged a meeting
with pt's parents, and she told her parents about the abuse at
this time. She states that her parents were very upset, but that
no one ever confronted her uncle. Her mother is still in contact
with the uncle. Pt notes significant nightmares that lead to her
insomnia. These occur nightly. She also experiences flashbacks
___ times per day. She notes several triggers, including 
smelling
her uncles cologne or hearing footsteps outside of her door at
night. She notes hypervigilance, stating that she is "a paranoid
person", endorses often feeling as though she is on "high alert"
and looking over her shoulder. She explains that these feelings
of hypervigilance alternate with feeling of numbness, stating "I
don't really feel anymore." She adds "I constantly just feel 
like
I'm drowning." Pt notes several instances of dissociative
symptoms, where she will be driving down the street or running,
and a period of time will pass without her being aware of what
has happened."

COURSE IN EMERGENCY DEPARTMENT:
Per ED nursing notes, patient was observed to be resting quietly
with friends at bedside.  No acute behavioral issues; patient 
did
not require chemical or physical restraints.  No medications
received.  Patient was medically cleared for psychiatric
admission.

 
Past Medical History:
Denies
 
Social History:
___
Family History:
Denies family history of mental illness, suicide or substance 
use
disorders

 
Physical Exam:
Heart: regular rate and rhythm, normal S1 and S2, no murmurs
appreciated
Lungs: clear to auscultation bilaterally, no wheezes, rales or
rhonchi appreciated
Abdomen: non-tender to palpation, normoactive bowel sounds x4,
non-distended, no guarding, masses or rebound
Extremities: warm and well perfused, no edema in bilateral lower
extremities
Neuro: pupils reactive to direct and near (3mm-2mm); EOMI;
muscles of facial expression intact and symmetric bilaterally;
shoulder-shrugs symmetric; light touch diffusely intact; 
strength
___ throughout UE and ___

___:  
 *station and gait: within normal limits
 *tone and strength: within normal limits

 
Pertinent Results:
___ 11:58PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 06:25PM URINE  HOURS-RANDOM
___ 06:25PM URINE  HOURS-RANDOM
___ 06:25PM URINE  HOURS-RANDOM
___ 06:25PM URINE  UCG-NEGATIVE
___ 06:25PM URINE  UHOLD-HOLD
___ 06:25PM URINE  GR HOLD-HOLD
___ 06:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:30PM   GLUCOSE-92 UREA N-9 CREAT-0.7 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-25 ANION GAP-17
___ 05:30PM   estGFR-Using this
___ 05:30PM   ALT(SGPT)-14 AST(SGOT)-22
___ 05:30PM   TSH-0.67
___ 05:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:30PM   WBC-6.9 RBC-4.55 HGB-12.7 HCT-40.0 MCV-88 
MCH-27.9 MCHC-31.8* RDW-11.9 RDWSD-38.4
___ 05:30PM   PLT COUNT-288
 
Brief Hospital Course:
SAFETY: The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit-restricted. There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:

#) Depression 
On initial interview patient reported worsening of chronic 
depression, PTSD symptoms and suicidality in the setting of 
mounting social stressors.  Mental status exam was
notable for restricted affect with continued passive suicidal 
ideation. Team considered diagnostically PSTD and unspecified 
depressive disorder. Hydroxyzine 25mg PO Q6H PRN 
anxiety/insomnia was also ordered, after which patient endorsed 
less night-time awakenings ___ last night compared to up 4 
which she stated is normal for her). Recurrent flashbacks, 
dreams, and nightmares have persisted since the day of her 
trauma but which she did not endorse since her hospitalization 
here. She was started on Celexa 10mg PO daily ___ with 
monitoring of response and tolerance with no adverse reactions 
noted and with patient agreeable to continue medication. Ms. ___ 
was also amenable to starting prazosin 2mg PO QHS for nightmares 
and insomnia attributable to event.  

GENERAL MEDICAL CONDITIONS:
- Continued home oral birth control Mono-Linyah 0.25-35 mg-mcg 
oral Daily; patient allowed to take own medication while here on 
the unit

PSYCHOSOCIAL:
#) GROUPS/MILIEU/THERAPY:
On O.T. evaluation, patient reported, "I want to figure out what 
to do to be happy". O.T. will attempt to address coping skills, 
insight, symptom management, self-esteem, structure, leisure 
skills, concentration, and socialization skills.
TREATMENT PLAN included: 
--Monitoring patient's mental status.
With recommendation and encouragement of patient to participate 
in the following
treatment groups, as appropriate:
--Psycho-educational and Process-Oriented Groups, to: Improve
coping skills, insight, self-esteem, and symptom management
--Structured/Therapeutic Activity Groups, to: Improve structure,
leisure skills, concentration, and socialization. 
-Patient was agreeable with the above goals and was willing to 
participate
in the rehabilitation program. 
-Patient's involvement in groups was limited after continuous 
attempts to encourage socialization or structured activity. 
Patient kept to herself and continued journaling with limited 
socialization. 

#) COLLATERAL CONTACTS:
___ ___

#) FAMILY INVOLVEMENT:
- Patient's mother, aunt, and son arrived on ___ for family 
meeting to inform her of her father's death. We were informed 
that patient's father suffered a heart attack in ___ the 
night prior and the family was upset and wanting to
comfort the patient. Given that patient's parents are divorced, 
it is customary in
___ families for the oldest child to make funeral 
arrangements and decisions about loved one's body etc.. 
Discussed this with family before meeting with patient. She 
seemed to take the news well and was the person comforting 
others rather than
seeking support herself. After further discussion patient was 
requesting to be discharged tomorrow to be with family over the 
weekend to celebrate the new year. She was told that we would 
consider this, given the circumstances and that we wanted to 
make sure there was a safe discharge plan for her should things 
become difficult over the weekend.

- Team again met with patient and family prior to discharge. 
Team agreed with patient being discharged to spend the weekend 
with family in ___. She will likely return to school on 
___ and agrees to meet with her school counselor before 
starting. SW also spoke with ___ who will schedule a 
reentry
meeting with patient on ___. Patient was very cooperative and 
involved in the family meeting. She continues to have some 
difficulty adding to her current repertoire of coping skills.

#) INTERVENTIONS:
Pharmacologically: celexa, prazosin 
Groups/milieu/therapy
Family Meeting
Aftercare planning

INFORMED CONSENT:
-Celexa, Vistaril, Prazosin:
Team discussed the indications for, intended benefits of, and 
possible side effects and risks of these medications, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient. We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and team answered the patient's questions. 
The
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT:
#) Chronic/Static Risk Factors:
- History of mental illness and trauma
- Recent loss of parent
- Sexual orientation 

#) Modifiable Risk Factors:
- Lack of connection with outpatient providers: aftercare 
- ___ support: family meeting and aftercare planning

#) Protective Factors:
- Higher level of functioning (attending ___, working on 
vacations, caring for younger siblings) 
- Social support from family and friends
- No substance use 

PROGNOSIS:
Fair - Ms. ___ is an ___ yo female freshman at ___ with reported depression and PTSD who presented to the 
___ ED after disclosing SI with plan to run into traffic with 
her ___ therapist. On initial interview patient reported 
worsening of chronic depression, PTSD symptoms and suicidality 
in the setting of mounting social stressors. Mental status exam 
notable for restricted affect with endorsed depressive symptoms 
although without passive death wishes or SI
prior to discharge. Patient's presentation most consistent with 
PSTD and unspecified depressive disorder. She appears to have 
limited insight into her PTSD symptoms and team found that she 
would strongly benefit from continuous long-term therapy in the
outpatient setting as well as psychiatrist follow up as patient 
was started on an antidepressant. As a higher functioning 
individual with stressors including very recent death of a loved 
one, stressors including the burden of caring for younger 
siblings, and with recent break-up, she remains future-oriented. 
However, she will need consistent and strong social support from 
family with highly recommended distancing from her maternal 
uncle. Patient would strongly benefit from connection with 
outpatient therapist/psychiatrist to focus on coping skills in 
managing depressive symptoms, anxiety, and poor sleep in 
relation to her trauma history. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mono-Linyah (norgestimate-ethinyl estradiol) 0.25-35 mg-mcg 
oral DAILY 

 
Discharge Medications:
1. Mono-Linyah (norgestimate-ethinyl estradiol) 0.25-35 mg-mcg 
oral DAILY 
2. Citalopram 10 mg PO DAILY 
RX *citalopram [Celexa] 10 mg Take one tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*0
3. Prazosin 2 mg PO QHS 
RX *prazosin 2 mg Take one capsule(s) by mouth at bedtime Disp 
#*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Mood Disorder
PTSD

 
Discharge Condition:
-Mental Status: Clear and coherent  
-Level of Consciousness: Alert and interactive  
-Activity Status: Ambulatory - Independent  

 
Discharge Instructions:
You were hospitalized at ___ for SI.  We adjusted your 
medications, and you are now ready for discharge and continued 
treatment in as arranged below.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___